US04118368
4-acetamido-4-ethoxycarbonyl-1-cyanomethyl-2,2,6,6-tetramethylpiperidine
0.9 g of 37% formalin solution and 2 ml of acetone cyanohydrin were added to 1 g of 4-acetamido-4-ethoxycarbonyl-2,2,6,6-tetramethylpiperidine obtained by the procedure of Example 2. The resulting mixture was stirred at room temperature, 0.4 ml of 0.1 N-sodium hydroxide solution was added to it, and the mixture was then stirred at room temperature for 3 hours.

reactant | formalin | 0.9 g | C=O | CH2O
reactant | acetone cyanohydrin | 2 ml | CC(C#N)(O)C | C4H7NO
reactant | 4-acetamido-4-ethoxycarbonyl-2,2,6,6-tetramethylpiperidine | 1 g | C(C)(=O)NC1(CC(NC(C1)(C)C)(C)C)C(=O)OCC | C14H26N2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-acetamido-4-ethoxycarbonyl-1-cyanomethyl-2,2,6,6-tetramethylpiperidine | C(C)(=O)NC1(CC(N(C(C1)(C)C)CC#N)(C)C)C(=O)OCC | C16H27N3O3
